US20010027196A1
5-Bromo-4-ethoxy-6-furan-2-yl -pyrimidin-2-ylamine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, ethanol and DBU in dioxane. ES-MS m/e (%): 286 (M{81Br}+H+, 99), 284 (M{79Br}+H+, 100), 258 ([M{81Br}+H—CH2═CH2]+, 52), 256 ([M{81Br}+H—CH2═CH2]+, 50).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | ethanol | C(C)O | C2H6O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-ethoxy-6-furan-2-yl -pyrimidin-2-ylamine | BrC=1C(=NC(=NC1C=1OC=CC1)N)OCC | C10H10BrN3O2
